US04299867
(a) 2,2-Dimethyl-3-(2-hydroxyethyl)-oxazolidine (DMHEOX)
A mixture of 526 g (5.0 moles) of diethanolamine, 581 g (10 moles) of acetone and 690 g (5.0 moles) of anhydrous potassium carbonate are allowed to stir for 20 hours. During the first two hours the solution temperature gradually increases to a maximum of 37° C. The mixture is filtered and the collected solid is washed with 500 ml of acetone. The filtrate and wash are combined, the solvent distilled off under reduced pressure, and the residue distilled under reduced pressure. There is obtained 543 g (75%) of a colorless liquid, b.p. 89°-92°/8 mm, nD26 1.4614, neutralization equivalent 144.5 (calculated 145.2).

reactant | diethanolamine | 5.0 moles, 526 g | N(CCO)CCO | C4H11NO2
reactant | acetone | 10 moles, 581 g | CC(=O)C | C3H6O
reactant | potassium carbonate | 5.0 moles, 690 g | C([O-])([O-])=O.[K+].[K+]
product | 2,2-Dimethyl-3-(2-hydroxyethyl)-oxazolidine | 543 g, 75% | CC1(OCCN1CCO)C | C7H15NO2
